Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamides) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
Left wrist pain s/p fall
 
Major Surgical or Invasive Procedure:
Hemodialysis

 
History of Present Illness:
Mr. ___ is a ___ M with history of CHF EF 20%, DM, HTN, 
PVD, who is s/p mechanical fall last night with left wrist 
injury. He had pain in his wrist and came to the ED for 
evaluation.  
.  
In the ED, initial vs were: 98, 91, 144/71, 18 100% RA. He had 
x-ray that showed comminuted distal fx on the left side. He was 
seen by ortho who reduced the fracture and put him in a spint. 
Patient received 4mg morphine for pain control. He was admitted 
for HD as he missed his outpatient appointment.  
.  
On the floor, he reports some residual pain in his L wrist. No 
chest pain, dizziness, SOB, syncope prior to fall. He had no LOC 
afterwards. Patient reports tripping over something while it was 
dark in his room.  
.  
Review of sytems:  
(+) Per HPI  
(-) Denies fever, lightheadedness, syncope, dizziness, chills, 
shortness of breath, chest pain or tightness, palpitations. 
Denied nausea, vomiting, diarrhea, constipation or abdominal 
pain. No recent change in bowel or bladder habits.  

 
Past Medical History:
1. Type 2 diabetes mellitus  
2. ESRD- Most likely multifactorial from diabetic nephropathy  
and obstructive nephropathy.  
3. Atrial fibrillation- Pt is anticoagulated on coumadin.  
4. Hypertension  
5. CHF  
6. Obesity  
7. Gout  
8. PVD  
9. Anemia of chronic disease- Secondary to renal dysfunction.  
10. Sleep apnea  

 
Social History:
___
Family History:
His grandparents and father have hypertension and diabetes.  
 
Physical Exam:
Vitals: T: 95.9 BP: 136/86 P: 81 R: 22 O2: 96% RA  
General: Alert, oriented, no acute distress  
HEENT: NC/AT, sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Irregularly irregular, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: L arm wrapped in splint, warm, well perfused, 2+ pulses, no 
clubbing, cyanosis or edema  

 
Pertinent Results:
Admission labs ___:

WBC-13.8*# RBC-3.98* Hgb-12.5* Hct-38.7* MCV-97 MCH-31.3 
MCHC-32.2 RDW-15.7* Plt ___
Neuts-81.1* Lymphs-9.5* Monos-7.4 Eos-1.4 Baso-0.5
___ PTT-36.7* ___
Glucose-118* UreaN-66* Creat-9.7*# Na-141 K-5.5* Cl-97 HCO3-29 
AnGap-21*
Calcium-9.4 Phos-6.0*# Mg-2.5
Digoxin-2.1*

Discharge labs ___:

Imaging:
___ L wrist x-ray:
1. Comminuted, displaced distal radial fracture, 
intra-articular. 
2. Impacted ulnar styloid fracture. 

___ L wrist x-ray after reduction:
Correct positioning after reduction, compared to ___, 

1:27 p.m. Slight limitation in visibility by a plaster. 

 
Brief Hospital Course:
Pt is a ___ y.o male with history of ESRD on HD, afib, HTN, CHF, 
obesity, gout, PVD, ACD who is status post fall with wrist fx.  
 
# Wrist fracture: His left wrist was reduced and splinted by 
ortho in the ED. Per their recs, he should not bear weight with 
his L arm and should try to keep it elevated. He will need to 
follow-up with Dr. ___ as outpatient in ___ weeks. His 
pain was controlled with standing tylenol and low dose oxycodone 
PRN severe pain. 
  
# Fall: He had a mechanical in setting of tripping in the dark. 
He was seen by physical therapy who felt he was very unsteady on 
his feet and required physical therapy for strength training.  
Patient was recommended to go to a rehab facility but upon 
discussion with his family and insurance company, his family 
decided to take the patient home with hired home physical 
therapy. 
  
# ESRD on HD: He was dialyzed during this admission and 
continued on his home sensipar.  He was started on sevelamer for 
phosphate control.
  
# Chronic systolic congestive heart failure: He was euvolemic on 
exam without SOB. His digoxin was stopped given his elevated 
level on admission. Patient will discuss when to restart this 
medication at which dose with his PCP.
  
# Atrial fibrillation: He was continued on metoprolol but his 
warfarin was briefly held in the setting of supratherapeutic 
INR. He was started on 1mg daily at disharge and will follow-up 
with his outpatient doctor for continued management. 
  
# Hypertension: BP well controlled on home regimen.  
  
# Hypothyroidism: Continued thryoid replacement. 

# Diabetes: It is unclear if this is a diagnosis for the patient 
as he has it listed in previous discharge summaries but 
adamantly denies having diabetes.  

# Constipation: He was started on standing colace, miralax and 
senna to help move his bowels.
 
Medications on Admission:
Flomax 0.4 mg 24 hr Cap daily  
Allopurinol ___ mg Tab daily  
Digoxin 250 mcg Tab daily 
Ambien 5 mg Tab QHS prn  
Unithroid 50 mcg Tab daily  
Warfarin 2 mg Tab ___ as directed  
Sensipar 30mg daily  
Toprol XL 25 mg 24 hr Tab Oral daily  

 
Discharge Medications:
1. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
2. Allopurinol ___ mg Tablet Sig: 1.5 Tablets PO EVERY OTHER DAY 
(Every Other Day).
Disp:*30 Tablet(s)* Refills:*0*
3. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.  
4. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
5. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO three 
times a day as needed for pain: you may purchase this medication 
over the counter.  
6. Cinacalcet 30 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Unithroid 50 mcg Tablet Sig: One (1) Tablet PO once a day.  
8. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
9. Polyethylene Glycol 3350 17 gram/dose Powder Sig: One (1) 
dose PO DAILY (Daily).
Disp:*30 * Refills:*0*
10. Sevelamer HCl 400 mg Tablet Sig: Two (2) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).
Disp:*60 Tablet(s)* Refills:*0*
11. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*30 Tablet(s)* Refills:*0*
12. Oxycodone 5 mg Tablet Sig: 0.5 Tablet PO Q12H (every 12 
hours) as needed for severe pain.
Disp:*10 Tablet(s)* Refills:*0*
13. Warfarin 1 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Left wrist fracture
Mechanical fall 

Secondary:
End stage renal disease on hemodialysis

 
Discharge Condition:
Mental status: confused sometimes.
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane)

 
Discharge Instructions:
You were admitted to the hospital after falling and landing on 
your wrist.  You were seen by orthopedic surgery and found to 
have a left wrist fracture.  Your wrist was casted, and you 
should follow-up with ortho as an outpatient.  You received your 
normal dialysis here in the hospital and were seen by physical 
therapy.  They felt you were unsteady on your feet and required 
further therapy.  Please follow-up with ortho and your PCP.
We have made referrals for you to have physical therapy and 
visiting nurses at home. Your wife has arranged for further 
assistance in the home as well.

The following changes were made to your medications:
1. Started standing tylenol three times a day to control your 
pain.
2. Started small dose oxycodone for breakthrough pain not 
controlled by tylenol. Do not drive when taking this medication 
and do not take this medication if you feel confused or are very 
tired.
3. Decreased your allopurinol to 150mg every other day.
4. Started sevelamer to help normalize your electrolytes.
5. Started colace, senna and miralax to help move your bowels.
6. Your digoxin was stopped because your level was very high on 
admission. You should discuss when to restart this medicine with 
your doctor.
7. Decreased your dose of warfarin to 1mg daily as your INR was 
elevated on admission.  Please follow-up with your doctor to 
have your INR monitored.
.
It is very important to have an updated and accurate medication 
list with you at all times.
 
Followup Instructions:
___